US05102667
N,N'-Carbonyldiimidazole (0.86 g) is added to a solution of 2-diethylaminophenylacetic acid (1.1 g) in dry dichloromethane (30 cc), cooled to +5° C. The mixture is stirred at +5° C. for 30 minutes and a solution of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (1.73 g) and triethylamine (1.48 cc) in dichloromethane (40 cc) is then added. The reaction mixture is stirred at 20° C. for 24 hours, then washed with water (2×150 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (0.2-0.063 mm, diameter 3 cm, height 40 cm), eluting under a nitrogen pressure of 0.7 bar with a mixture of cyclohexane and ethyl acetate (30/80 by volume) and collecting 125 cc fractions. Fractions 12 to 20 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from a mixture of acetonitrile (15 cc) and isopropyl ether (50 cc). The crystals are drained, washed with isopropyl ether and dried. (3aRS,7aRS)-7,7-diphenyl-2-[2-(2-diethylaminophenyl)acetyl]-4-perhydroisoindolone (1.6 g) is obtained in the form of white crystals melting at 160° C.

reactant | 2-diethylaminophenylacetic acid | 1.1 g | C(C)N(C1=C(C=CC=C1)CC(=O)O)CC | C12H17NO2
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 1.73 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 1.48 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 40 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-7,7-diphenyl-2-[2-(2-diethylaminophenyl)acetyl]-4-perhydroisoindolone | 1.6 g | C1(=CC=CC=C1)C1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)N(CC)CC)=O)=O)C1=CC=CC=C1 | C32H36N2O2
